US05302712
To a suspension of 62% sodium hydride (0.36 g) in N,N-dimethylformamide (6 ml) was added 1H-imidazo[1,2-b]-pyrazole (1 g) under ice-cooling Then, thereto was added dropwise methyl iodide (0.58 ml) at the same temperature After the mixture was stirred at room temperature for 4 hours, ethyl acetate was added thereto The precipitate was filtered off, and the organic solvent was evaporated in vacuo. The residue was purified by column chromatography on silica gel to give 1-methyl-1H-imidazo-[1,2-b]pyrazole (0.9 g).

reactant | sodium hydride | 0.36 g | [H-].[Na+]
reactant | 1H-imidazo[1,2-b]-pyrazole | 1 g | N1C=CN2N=CC=C21 | C5H5N3
reactant | methyl iodide | 0.58 ml | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 1-methyl-1H-imidazo-[1,2-b]pyrazole | 0.9 g | CN1C=CN2N=CC=C21 | C6H7N3
